US04313856
To a solution, pre-cooled to 0° C., of 140 g (0.068 mol) of 4-(2,6,6-trimethyl-3-hydroxy-cyclohex-1-en-1-yl)-but-3-en-2-one in 500 ml of ether are added dropwise over a period of 10 minutes 700 ml of an aqueous solution, cooled to 0° C., of 202.6 g of sodium dichromate dihydrate and 186 g of concentrated sulphuric acid with intensive cooling and good stirring so that a temperature of 5° C. is not exceeded. The mixture is then stirred for a further 5 minutes at 5° C., treated with 500 ml of ether, the ether phase is washed three times with water, three times with soda solution and again three times with water, dried over sodium sulphate and concentrated. Distillation of the resulting 125 g of crude product over a 10 cm Widmer column gave 103 g of more than 94% g of more than 94% pure 4-(2,6,6 -trimethyl-3-oxo-cyclohex-1-en-1-yl)-but-3-en-2-one of boiling point 109°-110° C./0.05 mm Hg; melting point 50°-51° C.

reactant | 4-(2,6,6-trimethyl-3-hydroxy-cyclohex-1-en-1-yl)-but-3-en-2-one | 0.068 mol, 140 g | CC1=C(C(CCC1O)(C)C)C=CC(C)=O | C13H20O2
reactant | sodium dichromate dihydrate | 202.6 g | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | sulphuric acid | 186 g | S(O)(O)(=O)=O | H2O4S
solvent | ether | 500 ml | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 4-(2,6,6 -trimethyl-3-oxo-cyclohex-1-en-1-yl)-but-3-en-2-one | more than 94% | CC1=C(C(CCC1=O)(C)C)C=CC(C)=O | C13H18O2
